US06790858B2
6-(4-Acetamidophenoxy)-5-(N-benzyl-N-methylaminomethyl)-1-(2 ′,6′-difluorobenzyl)-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid-ethyl ester
78 mg of 6-(4-acetamidophenoxy)-5-(chloromethyl)-1-(2′,6′-difluorobenzyl)-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid-ethyl ester, dissolved in 3 ml of dimethylformamide, was mixed with 84 μl of N-methylbenzylamine and 84 μl of N,N-diisopropyl-ethylamine at 0° C. and stirred at room temperature for 20 hours. After 20 ml of aqueous sodium bicarbonate solution was added, the precipitate was suctioned off, washed with water and then with n-hexane, and dried at room temperature in a vacuum. 70 mg of the title compound is obtained.

reactant | 6-(4-acetamidophenoxy)-5-(chloromethyl)-1-(2′,6′-difluorobenzyl)-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid-ethyl ester | 78 mg | C(C)OC(=O)C1=CN(C2=CC=C(C(=C2C1=O)CCl)OC1=CC=C(C=C1)NC(C)=O)CC1=C(C=CC=C1F)F | C28H23ClF2N2O5
reactant | N-methylbenzylamine | 84 μl | CNCC1=CC=CC=C1 | C8H11N
reactant | N,N-diisopropyl-ethylamine | 84 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | sodium bicarbonate | 20 ml | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 6-(4-Acetamidophenoxy)-5-(N-benzyl-N-methylaminomethyl)-1-(2 ′,6′-difluorobenzyl)-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid-ethyl ester | 70 mg | C(C)OC(=O)C1=CN(C2=CC=C(C(=C2C1=O)CN(C)CC1=CC=CC=C1)OC1=CC=C(C=C1)NC(C)=O)CC1=C(C=CC=C1F)F | C36H33F2N3O5
